US08183246B2
(+)-(3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid (Enantiomer 1)
Dissolve 41 mg (0.08 mmol) (3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid tert.-butyl ester (Enantiomer 1) in 0.5 ml dioxan, add 0.2 ml 4 N hydrogen chloride in dioxan and stir for 48 h at RT. Then add a further 0.4 ml 4 N hydrogen chloride in dioxan to the reaction mixture and stir again for 16 h at RT. Concentrate the reaction solution by evaporation under vacuum and then purify the residue by preparative RP-HPLC (gradient: water/acetonitrile). 27 mg (74% of theor.) of the desired product is obtained as Enantiomer 1.

reactant | (3-{[5-(4-methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid tert.-butyl ester | 0.08 mmol, 41 mg | C(C)(C)(C)OC(COCC(COC=1C2=C(N=CN1)OC(=C2C2=CC=C(C=C2)OC)C2=CC=CC=C2)C)=O | C29H32N2O6
reactant | hydrogen chloride | 4 N, 0.2 ml | Cl | ClH
reactant | hydrogen chloride | 4 N, 0.4 ml | Cl | ClH
solvent | dioxan | 0.5 ml | O1CCOCC1 | C4H8O2
product | (+)-(3-{[5-(4-Methoxyphenyl)-6-phenylfuro[2,3-d]pyrimidin-4-yl]oxy}-2-methylpropoxy)acetic acid | COC1=CC=C(C=C1)C1=C(OC=2N=CN=C(C21)OCC(COCC(=O)O)C)C2=CC=CC=C2 | C25H24N2O6
